US05563147
9-Methyl-1,2,3,4-tetrahydropyrido[3,4-b]indole
Trifluoroacetic acid (3.5 ml, 45.23 mmol) was added to a solution of 2-t-butoxycarbonyl-9-methyl-1,2,3,4-tetrahydropyrido[3,4-b]indole (1.848 g, 6.461 mmol) in dichloromethane (25 ml) and stirred at room temperature for 3 hours, diluted with dichloromethane (125 ml), washed with 2M sodium hydroxide (2×50 ml), water and dried (MgSO4). The magnesium sulfate was collected by filtration and the filtrate evaporated in vacuo to give the title product.

reactant | Trifluoroacetic acid | 45.23 mmol, 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-t-butoxycarbonyl-9-methyl-1,2,3,4-tetrahydropyrido[3,4-b]indole | 6.461 mmol, 1.848 g | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)C | C17H22N2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | 9-Methyl-1,2,3,4-tetrahydropyrido[3,4-b]indole | CN1C2=C(C3=CC=CC=C13)CCNC2 | C12H14N2
